US08865752B2
A mixture of 1-(2-bromobenzo[d]thiazol-6-yl)-1-(1H-imidazol-1-yl)-N,N-dimethylbutan-2-amine (663 mg, 1.75 mmol), (4-(methoxycarbonyl)phenyl)boronic acid (409 mg, 2.275 mmol), tetrakis(triphenylphosphine)palladium (505 mg, 0.437 mmol), potassium carbonate (725 mg, 5.25 mmol); DME (25 mL) and water (5 mL) was degassed, filled with N2, and heated to 80° C. for 3 h. The reaction mixture was evaporated, dissolved in 10% methanol in DCM, loaded onto a PTLC plate and eluted with 6% methanol in DCM to yield methyl 4-(6-(2-(dimethylamino)-1-(1H-imidazo 1-yl)butyl)benzo[d]thiazol-2-yl)benzoate. MS ESI: m/z 435.19 [M+1+].

reactant | 1-(2-bromobenzo[d]thiazol-6-yl)-1-(1H-imidazol-1-yl)-N,N-dimethylbutan-2-amine | 1.75 mmol, 663 mg | BrC=1SC2=C(N1)C=CC(=C2)C(C(CC)N(C)C)N2C=NC=C2 | C16H19BrN4S
reactant | (4-(methoxycarbonyl)phenyl)boronic acid | 2.275 mmol, 409 mg | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | potassium carbonate | 5.25 mmol, 725 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.437 mmol, 505 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 4-(6-(2-(dimethylamino)-1-(1H-imidazo 1-yl)butyl)benzo[d]thiazol-2-yl)benzoate | CN(C(C(N1C=NC=C1)C1=CC2=C(N=C(S2)C2=CC=C(C(=O)OC)C=C2)C=C1)CC)C | C24H26N4O2S
